US08133909B2
(S)—N-(3,4-Dimethyl-phenyl)-2-hydroxy-2-phenyl-N-[2-(5-trifluoromethyl-pyridin-2-yl)-ethyl]-acetamide
To a solution of 116 mg (0.25 mmol) acetic acid (S)-{(3,4-dimethyl-phenyl)-[2-(5-trifluoromethyl-pyridin-2-yl)-ethyl]-carbamoyl}-phenyl-methyl ester in 1.2 mL tetrahydrofuran were added 0.6 mL water and 11.4 mg (0.27 mmol) lithium hydroxide monohydrate. The mixture was stirred at room temperature overnight. The mixture was diluted with water and extracted 3 times with ethyl acetate. The combined organic layers were dried over Na2SO4, filtered and concentrated in vacuo. The crude oil was purified with flash column chromatography on silica eluting with a gradient formed from heptane and ethylacetate to provide 0.098 g (93%) of the title compound as a colorless oil. MS(m/e): 429.2 [M+H]+.

reactant | acetic acid (S)-{(3,4-dimethyl-phenyl)-[2-(5-trifluoromethyl-pyridin-2-yl)-ethyl]-carbamoyl}-phenyl-methyl ester | 0.25 mmol, 116 mg | CC=1C=C(C=CC1C)N(C(=O)[C@H](C1=CC=CC=C1)OC(C)=O)CCC1=NC=C(C=C1)C(F)(F)F | C26H25F3N2O3
reactant | lithium hydroxide monohydrate | 0.27 mmol, 11.4 mg | O.[OH-].[Li+]
solvent | tetrahydrofuran | 1.2 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | water | 0.6 mL | O | H2O
product | (S)—N-(3,4-Dimethyl-phenyl)-2-hydroxy-2-phenyl-N-[2-(5-trifluoromethyl-pyridin-2-yl)-ethyl]-acetamide | 0.098 g, 93% | CC=1C=C(C=CC1C)N(C([C@H](C1=CC=CC=C1)O)=O)CCC1=NC=C(C=C1)C(F)(F)F | C24H23F3N2O2
